US07875639B2
3-Butyl-3H-benzothiazol-2-ylideneamine hydroiodide
Benzothiazol-2-ylamine (1.0 g, 6.6 mmol) and 1-iodobutane (0.90 mL, 7.9 mmol) were processed as described in Example 46A. Recrystallization from ethyl acetate provided 1.4 g (63%) of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ ppm 0.92 (t, J=7.3 Hz, 3 H), 1.32-1.46 (m, 2 H), 1.60-1.73 (m, 2 H), 4.19-4.28 (m, 2 H), 7.40-7.47 (m, 1 H), 7.54-7.62 (m, 1 H), 7.73 (d, J=7.8 Hz, 1 H), 8.00 (dd, J=7.8, 1.0 Hz, 1 H), 10.00-10.13 (m, 1 H); MS (DCI/NH3) m/z 207 (M+H)+.

reactant | Benzothiazol-2-ylamine | 6.6 mmol, 1.0 g | S1C(=NC2=C1C=CC=C2)N | C7H6N2S
reactant | 1-iodobutane | 7.9 mmol, 0.90 mL | ICCCC | C4H9I
product | 3-Butyl-3H-benzothiazol-2-ylideneamine hydroiodide | 1.4 g, 63% | I.C(CCC)N1C(SC2=C1C=CC=C2)=N | InChI=1S/C11H14N2S.HI/c1-2-3-8-13-9-6-4-5-7-10(9)14-11(13)12;/h4-7,12H,2-3,8H2,1H3;1H
